US04623647
Preparation of 1-(hydroxymethyl)-9,10-dimethoxy-1,6,7,11b-tetrahydro-2H,4H-[1,3]oxazino[4,3-a]isoquinoline
A suspension of 6 mmoles (1.6 g) of 1-[bis(hydroxymethyl)-methyl]-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline in 50 ml of absolute benzene is admixed with a suspension of 7 mmoles (0.02 g) of paraformaldehyde in 10 ml of absolute methanol. The reaction mixture is refluxed for two hours in the presence of a catalytic amount of hydrochloric acid or acetic acid, whereupon the obtained pale-yellow solution is evaporated in vacuo. The residual oily product is triturated with a small amount of acetone to yield the aimed compound in crystalline form in a yield of 89%.

reactant | 1-[bis(hydroxymethyl)-methyl]-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline | 6 mmoles, 1.6 g | OCC(C1NCCC2=CC(=C(C=C12)OC)OC)CO | C14H21NO4
reactant | paraformaldehyde | 7 mmoles, 0.02 g | C=O | CH2O
reactant | hydrochloric acid | Cl | ClH
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
solvent | methanol | 10 ml | CO | CH4O
product | 1-(hydroxymethyl)-9,10-dimethoxy-1,6,7,11b-tetrahydro-2H,4H-[1,3]oxazino[4,3-a]isoquinoline | yield of 89% | OCC1COCN2C1C1=CC(=C(C=C1CC2)OC)OC | C15H21NO4
